US08859580B2
10-Methoxy-11,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine
A solution of 2-(2-methoxy-benzyl)-3,3-dimethyl-piperidin-4-ol (0.80 g) in polyphosphoric acid (10 mL) is stirred at 120° C. overnight. After cooling the solution to ca. 80° C., water (300 mL) is added and the mixture is stirred vigorously for another 10 min. Then, the mixture is cooled in an ice bath, more water is added, and the mixture is basified using 10 M aqueous NaOH. The resulting mixture is extracted with ethyl acetate, the combined organic extracts are washed with brine and dried (MgSO4). The solvent is removed under reduced pressure to yield the title product that is used without further purification.

reactant | 2-(2-methoxy-benzyl)-3,3-dimethyl-piperidin-4-ol | 0.80 g | COC1=C(CC2NCCC(C2(C)C)O)C=CC=C1 | C15H23NO2
reactant | NaOH | 10 M | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 300 mL | O | H2O
product | 10-Methoxy-11,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine | COC1=CC=CC2=C1CC1NCCC2C1(C)C | C15H21NO
